US09422281B2
1-(6-bromo-2-(fluoromethyl)-4-(furan-2-carbonyl)-3,4-dihydroquinoxaline-1(2H)-yl)ethan-1-one was synthesized from (1-(6-bromo-2-(fluoromethyl)-3,4-dihydroquinoxalin-1(2H)-yl)ethan-1-one and furan-2-carbonyl chloride according to the procedure outlined for (S)-1-(6-bromo-4-(furan-2-carbonyl)-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)ethanone. MS (ESI, pos. ion) m/z 339, 341 [M−42 (acyl)]+.

reactant | 1-(6-bromo-2-(fluoromethyl)-3,4-dihydroquinoxalin-1(2H)-yl)ethan-1-one | BrC=1C=C2NCC(N(C2=CC1)C(C)=O)CF | C11H12BrFN2O
reactant | furan-2-carbonyl chloride | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | (S)-1-(6-bromo-4-(furan-2-carbonyl)-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)ethanone | BrC=1C=C2N(C[C@@H](N(C2=CC1)C(C)=O)C)C(=O)C=1OC=CC1 | C16H15BrN2O3
product | 1-(6-bromo-2-(fluoromethyl)-4-(furan-2-carbonyl)-3,4-dihydroquinoxaline-1(2H)-yl)ethan-1-one | BrC=1C=C2N(CC(N(C2=CC1)C(C)=O)CF)C(=O)C=1OC=CC1 | C16H14BrFN2O3
